datasets/10k__Tet_Int.csv
SMILES Labelled
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)CCCCCC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C([H])[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)CC 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)C)CCCCCC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)C)CCCCCC)CCCCCC 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)CC)CC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)CC)CC)CCCCCC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[O:21]=[C:20](O[H])O[H].[O-:10]CC>>CC[O:10][C:20]([O-:21])(O[H])O[H] 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])CCCCCC)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CCCCCC)C.[O-:21][H] 10=20;20,21=21"
"CCCCCC[O:10][C:20]([O-:21])(OC1=CC=CC=C1)OCCCCCC>>[O:21]=[C:20](OC1=CC=CC=C1)OCCCCCC.[O-:10]CCCCCC 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)[H]>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21]CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C(O)C([H])C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C([H])C(O)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)[H])CC>>CCN([C:20]1(OC(C(C([O:21]1)CC)CC)[H])[O-:10])CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[O-:10]C([H])C(O)C([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[O:10]C([H])C(O)C1[H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C([H])=C(C)C(CC)[O:10]1>>[O-:10]C(CC)/C(C)=C([H])\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[OH:10]C(CCC)C([H])C(O)C(O)[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C(O)C(O)C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C8=CC=CC=C8)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)[H])[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)[H])CCCCCC 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(CC)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(CC)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
